US04447441
A solution of crude methyl 3-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]benzoate hydrochloride (1 g.) in ethanolic methylamine (33% w/v, 20 ml.) was allowed to stand at room temperature for 4 days. The mixture was then evaporated to dryness and the residue triturated with water to give 0.16 g. of N-methyl-3-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]benzamide (yield 20%). The n.m.r. spectrum in d6DMSO included the following resonances: 2.8 (d, 3H); 4.1 (m, 2H); 7.3 (s, 1H); 7.0-8.4 (complex, 7H).

reactant | methyl 3-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]benzoate hydrochloride | 1 g | Cl.FC(CN=C(NC=1SC=C(N1)C=1C=C(C(=O)OC)C=CC1)N)(F)F
reactant | methylamine | 20 ml | CN | CH5N
product | N-methyl-3-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]benzamide | yield 20% | CNC(C1=CC(=CC=C1)C=1N=C(SC1)NC(=NCC(F)(F)F)N)=O | C14H14F3N5OS
